US09260382B2
Aryl bromide (10 mmol), N-allylphthalimide (1.93 g, 10.3 mol, 1.03 equiv) and triethylamine (2.78 mL, 20 mmol, 2 equiv) were placed in a 50 mL three-necked round bottom flask, palladium acetate (23 mg, 0.1 mmol, 0.01 equiv) and tri-O-tolylphosphine (61 mg, 0.2 mmol, 0.02 equiv) were added to the flask under the flash of argon, and the whole mixture was heated at 100° C. (bath temperature) under argon and with stirring for 16 h. After the reaction mixture was cooled to ambient temperature, DCM (50 mL) and H2O (50 mL) were added, and stirred at room temperature for 10 min. The DCM layer was separated, and the aqueous layer was extracted with DCM (2×50 mL). The combined DCM layers were washed with H2O (50 mL) and brine (50 mL), and dried. The solvent was evaporated by a rotary evaporator to dryness, and the crude product was purified by flash column chromatography (eluting with 30-80% EtOAc in hexane) to afford N-cinnamyl phthalimide (116 or 118).

reactant | N-allylphthalimide | 10.3 mol, 1.93 g, 1.03 equiv | C(C=C)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO2
reactant | triethylamine | 20 mmol, 2.78 mL, 2 equiv | C(C)N(CC)CC | C6H15N
reactant | tri-O-tolylphosphine | 0.2 mmol, 61 mg, 0.02 equiv | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 0.1 mmol, 23 mg, 0.01 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | H2O | 50 mL | O | H2O
product | N-cinnamyl phthalimide | C(C=CC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C17H13NO2
